US04584146
Tetrakis(2,6-di-t-butyl-4-methylphenyl) 4,4'-isopropylidenebisphenyl diphosphite
A solution of 0.9 grams of 4,4'-isopropylidenebisphenol (0.004 mol) in 50 ml of dry tetrahydrofuran was added to a reaction vessel equipped with stirring and heating means. While stirring the 4,4'-isopropylidenebisphenol solution under nitrogen, 0.19 gram (0.008 mol) of sodium hydride, as a 50 weight percent dispersion mineral oil was added to the 4,4-isopropylidenebisphenol solution and the resulting mixture was stirred at 55° C. for one hour. The reaction mixture was cooled to room temperature and a solution of bis(2,6-di-t-butyl-4-methylphenyl) phosphorochloridite (4.0 grams, 0.008 mol) in 25 ml of tetrahydrofuran was added to the reaction mixture and the mixture was stirred for three hours. The reaction product was then acidified with 1N HCl and filtered. The filtrate was heated to remove the solvent, and an oily reaction product was obtained. This oil was stirred with 50 ml of acetonitrile for one hour. The resulting white powder was recovered by filtration and dried. The product yield of tetrakis(2,6-di-t-butyl-4-methylphenyl)-4,4'-isopropylidenebisphenyl diphosphite was 3.72 grams. The molecular weight, FD/MS was 1164. NMR data obtained was, (CDCl3): 1.44 (S, 72H), 2.23 (S, 12H), 6.01 (d, J=8.4, 4H), 6.69 (d, J=8.4, 4H), 7.02 (S,8H).

reactant | 4,4'-isopropylidenebisphenol | 0.004 mol, 0.9 grams | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydride | 0.008 mol, 0.19 gram | [H-].[Na+]
reactant | bis(2,6-di-t-butyl-4-methylphenyl) phosphorochloridite | 0.008 mol, 4.0 grams | P(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)Cl | C30H46ClO2P
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Tetrakis(2,6-di-t-butyl-4-methylphenyl) 4,4'-isopropylidenebisphenyl diphosphite | P(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OP(OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C)OC1=C(C=C(C=C1C(C)(C)C)C)C(C)(C)C | C75H106O6P2
